data/mechanism_extracts/EurJOC/10.1002_ejoc.202500222.json
{"doi": "10.1002_ejoc.202500222", "journal": "EurJOC", "is_review": false, "rxn_class_summary": "Electrochemical radical cyclization of O-tethered aryl iodides (alkenyl ethers) with terephthalonitrile to access chromanes/isochromanes bearing arylated quaternary carbons, using a Mg anode and carbon cloth cathode.", "mechanism_family": ["radical_cathodic", "direct_SET", "sacrificial_anode", "radical_anion"], "electrochemical_role": "Cathode reduces terephthalonitrile to its radical anion, which then mediates single-electron reduction of the aryl C–I bond to generate an aryl radical; Mg anode is sacrificially oxidized to Mg(II).", "key_intermediates": [{"name": "terephthalonitrile radical anion (I)", "smiles": "[O-]... ", "role": "reactive"}, {"name": "aryl radical from C–I cleavage of O-tethered iodoarene", "smiles": null, "role": "transient"}, {"name": "exocyclic tertiary C-radical (II) after 5- or 6-exo-trig cyclization onto the tethered alkene", "smiles": null, "role": "reactive"}, {"name": "radical-radical coupling adduct / cyclohexadienyl anion that rearomatizes by loss of CN-", "smiles": null, "role": "transient"}], "electron_flow": "Cathode delivers one electron to terephthalonitrile to give its radical anion, which transfers an electron to the aryl iodide (the iodide has a more negative reduction potential), cleaving C–I to give an aryl radical; 5- or 6-exo-trig cyclization onto the pendant alkene forms an exocyclic alkyl radical that couples with a second terephthalonitrile radical anion, then rearomatizes by extrusion of cyanide to give the ipso-arylated product. Mg anode is sacrificially oxidized to Mg(2+).", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "TEMPO adduct 9 of the exocyclic alkyl radical detected by HRMS (<5%); TEMPO adducts 10/11 of terephthalonitrile-derived radical species also detected (<5%); reaction suppressed, supporting both aryl/alkyl C-radical and arene radical-anion intermediates."}, {"name": "Cyclic voltammetry of 2a, 1a, 4a", "smiles": null, "purpose": "redox_probe", "observation": "E_red(2a) = -1.61 V vs Ag/AgCl, less negative than aryl iodobenzene (E_red ≈ -2.5 V), indicating preferential cathodic reduction of terephthalonitrile; reduction peak of 2a grows with increasing [1a], consistent with mediated SET from 2a•- to 1a."}], "evidence_types_used": ["intermediate_trap_TEMPO", "cyclic_voltammetry", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Net transformation is an ipso-cyanide substitution on terephthalonitrile (loss of CN-) coupled to intramolecular aryl-radical cyclization. Selectivity for 5- vs 6-exo-trig set by tether length (m, n). Mg(II) released from the sacrificial anode likely stabilizes the cyclohexadienyl anion and/or cyanide leaving group. No DFT or KIE reported."}
